US07622469B2
4-Octylamino-3,6-dihydro-6,6-dimethyl-2-(4′-methylbenzylamino)-1,3,5-triazine acetate
300 ml of methanol, 180 ml of acetone and 1.2 ml of concentrated hydrochloric acid were added to 18.0 g (46.1 mmol) of N1-4-methylbenzyl-N5-octyl-biguanide dihydrochloride. The mixture was refluxed for 24 hours, and the solvent was distilled off under reduced pressure. The residue was dissolved in 200 ml of ethanol, and to the solution were added 140 ml of water and 18.5 ml of 5N aqueous sodium hydroxide. The mixture was refluxed for 1.5 hours, concentrated under reduced pressure, and extracted with ethyl acetate. The extract was washed with water, and the solvent was distilled off under reduced pressure. The residue was dissolved in ether, and cooled. The resulting precipitated crystals were filtered off, and recrystallized from ethanol/ether to obtain 10.1 g of colorless crystals having a melting point of 101 to 102° C.

reactant | methanol | 300 ml | CO | CH4O
reactant | hydrochloric acid | 1.2 ml | Cl | ClH
reactant | N1-4-methylbenzyl-N5-octyl-biguanide dihydrochloride | 46.1 mmol, 18.0 g | Cl.Cl.CC1=CC=C(CNC(=N)NC(=N)NCCCCCCCC)C=C1
reactant | acetone | 180 ml | CC(=O)C | C3H6O
product | 4-Octylamino-3,6-dihydro-6,6-dimethyl-2-(4′-methylbenzylamino)-1,3,5-triazine acetate | 10.1 g | C(C)(=O)O.C(CCCCCCC)NC=1NC(=NC(N1)(C)C)NCC1=CC=C(C=C1)C | InChI=1S/C21H35N5.C2H4O2/c1-5-6-7-8-9-10-15-22-19-24-20(26-21(3,4)25-19)23-16-18-13-11-17(2)12-14-18;1-2(3)4/h11-14H,5-10,15-16H2,1-4H3,(H3,22,23,24,25,26);1H3,(H,3,4)
